US08349824B2
To an argon purged solution of 2,7-dibromo-[1,2,4]triazolo[1,5-a]pyridine (1.9 g, 6.86 mmol) in dioxane (70.3 ml) are added tert-butyl carbamate (965 mg, 8.23 mmol), cesium carbonate (3.13 g, 9.61 mmol), tris(dibenzylideneacetone)dipalladium(0) (126 mg, 137 μmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (159 mg, 274 μmol). The resulting mixture is stirred for 18 hours at 100° C. under argon atmosphere. The crude material is loaded on silicagel and purified by chromatography on a 70 g silica column using heptane/ethyl acetate 10-40% as eluent affording tert-butyl 2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (1.39 g, 64.6%) as a white solid. MS: m/z=313.0; 314.9 (M+H+).

reactant | 2,7-dibromo-[1,2,4]triazolo[1,5-a]pyridine | 6.86 mmol, 1.9 g | BrC1=NN2C(C=C(C=C2)Br)=N1 | C6H3Br2N3
reactant | tert-butyl carbamate | 8.23 mmol, 965 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 9.61 mmol, 3.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 70.3 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 137 μmol, 126 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 274 μmol, 159 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | tert-butyl 2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 1.39 g, 64.6% | BrC1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C11H13BrN4O2
